US05594021
α-(2-benzo[b]thienyl)-4-methyoxybenzyl alcohol was prepared by the method of Example 40A with benzo[b]thiophene (7.5 mmoles. 1.0 g), t-BuLi (1.7 m, 10.4 mmoles, 6.1 ml), 4-methoxy-benzaldehyde (8.9 mmoles, 1.1 ml) and THF (20 ml). Flash chromatography (20% ethyl acetate/hexanes) provided 1.75 g (87%) of a yellow solid.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 10.4 mmoles, 6.1 ml | [Li]C(C)(C)C
reactant | 4-methoxy-benzaldehyde | 8.9 mmoles, 1.1 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | α-(2-benzo[b]thienyl)-4-methyoxybenzyl alcohol | S1C2=C(C=C1C(C1=CC=C(C=C1)OC)O)C=CC=C2 | C16H14O2S
